US05576324
2-Bromomethyl-2,5,8,8-tetramethyl-2,3,6,7,8,9-hexahydrofuro[2,3-f]quinoline-7-one
Using 5-hydroxy-6-(2-methyl-2-propenyl)-3,3,8-trimethyl-3,4-dihydrocarbostyril (1.35 g, 5.18 mmol) and N-bromosuccinimide (968 mg, 5.44 mmol), the procedure of Example 299 was followed (reaction, post-treatment, and recrystallization from chloroform-hexane) to obtain 1.30 g of the title compound as colorless needles (74%).

reactant | 5-hydroxy-6-(2-methyl-2-propenyl)-3,3,8-trimethyl-3,4-dihydrocarbostyril | 5.18 mmol, 1.35 g | OC1=C2CC(C(NC2=C(C=C1CC(=C)C)C)=O)(C)C | C16H21NO2
reactant | N-bromosuccinimide | 5.44 mmol, 968 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform hexane | C(Cl)(Cl)Cl.CCCCCC
product | 2-Bromomethyl-2,5,8,8-tetramethyl-2,3,6,7,8,9-hexahydrofuro[2,3-f]quinoline-7-one | 1.30 g, 74% | BrCC1(CC=2C(=C3CC(C(NC3=C(C2)C)=O)(C)C)O1)C | C16H20BrNO2
